US04711900
N-Acetyloxy-N-methyl-4-[4-(4-pyridinyl)butyl]benzamide
A solution of 200 mg of N-hydroxy-N-methyl-4-[4-(4-pyridinyl)butyl]benzamide in dry pyridine (3.0 ml) was mixed with acetic anhydride (0.5 ml) and was allowed to stand at room temperature for 20 hours. The mixture was then concentrated in vacuo, diluted with dichloromethane, washed with a dilute Na2CO3 solution and water, dried (MgSO4 anhydrous), evaporated and the residue was purified by column chromatography on silica gel to afford the title compound.

reactant | N-hydroxy-N-methyl-4-[4-(4-pyridinyl)butyl]benzamide | 200 mg | ON(C(C1=CC=C(C=C1)CCCCC1=CC=NC=C1)=O)C | C17H20N2O2
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 3.0 ml | N1=CC=CC=C1 | C5H5N
product | N-Acetyloxy-N-methyl-4-[4-(4-pyridinyl)butyl]benzamide | C(C)(=O)ON(C(C1=CC=C(C=C1)CCCCC1=CC=NC=C1)=O)C | C19H22N2O3
